US08445684B2
To a solution of 1-nitro-2-(tetrahydro-2H-pyran-2-yloxy)ethane (0.17 mL, 1.12 mmol, 2.0 equiv.) and 3-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]-5-ethynylpyridine (170 mg, 0.56 mmol) in dry benzene (5.6 mL) were added phenyl isocyanate (122 μL, 1.12 mmol, 2.0 equiv.) and triethylamine (80 μL, 0.57 mmol, 1.0 equiv.). The reaction mixture was stired at 60° C. for 48 h, then diluted with water and stirred vigorously for 2 h. The mixture was extracted with CH2Cl2. The organic phase was dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by CC on SiO2 with EtOAc/hexane 1:1 to give 3-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]-5-[3-[(tetrahydro-2H-pyran-2-yloxy)methyl]-5-isoxazolyl]pyridine (190 mg, 74%). The 1H NMR spectrum (CDCl3, 400 MHz) exhibits two sets of signals for two of the heteroaromatic protons: δ 8.53 (br s, 1H), 8.28 (br s, 1H), 7.69 (br s, 1H of the major component), 7.49 (br s, 1H of the minor component), 6.69 (br s, 1H of the major component), 6.65 (br s, 1H of the minor component), 4.75, 4.57 (ABq, 2H, J=12.8 Hz), 4.67 (br s, 1H), 4.23-4.01 (m, 2H), 3.99-3.84 (m, 1H), 3.81 (br t, 1H, J=9.6 Hz), 3.53-3.42 (m, 1H), 3.40-3.20 (m, 2H), 2.03-1.4 (series of overlapping m, 10H), 1.38 (s, 9H).

reactant | 1-nitro-2-(tetrahydro-2H-pyran-2-yloxy)ethane | 1.12 mmol, 0.17 mL, 2.0 equiv. | [N+](=O)([O-])CCOC1OCCCC1 | C7H13NO4
reactant | 3-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]-5-ethynylpyridine | 0.56 mmol, 170 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC=1C=NC=C(C1)C#C | C17H22N2O3
reactant | phenyl isocyanate | 1.12 mmol, 122 μL, 2.0 equiv. | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | triethylamine | 0.57 mmol, 80 μL, 1.0 equiv. | C(C)N(CC)CC | C6H15N
solvent | benzene | 5.6 mL | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 3-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]-5-[3-[(tetrahydro-2H-pyran-2-yloxy)methyl]-5-isoxazolyl]pyridine | 190 mg, 74% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC=1C=NC=C(C1)C1=CC(=NO1)COC1OCCCC1 | C24H33N3O6
